US08426447B2
A 25-mL flask was charged with (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (1.012 g, 2.91 mmol), copper(i) iodide (0.055 g, 0.291 mmol), and tetrakis(triphenylphosphine)palladium (0.034 g, 0.029 mmol). The vial was flushed with Ar(g), then a septum was attached. DMF (5.81 mL), diisopropylamine (6.11 mL, 43.6 mmol), and 2-methylbut-3-yn-2-ol (1.137 mL, 11.63 mmol) were added in sequence to give a clear, brown solution. A reflux condenser was attached, and the flask was placed in a 75° C. oil bath for 4 hours. The mixture was diluted with water (35 mL) and extracted with DCM (4×20 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue, which contained a considerable amount of DMF, was loaded onto a 10-g SCX-2 column with the aid of methanol. The column was eluted with methanol to remove impurities, then with 2M ammonia in methanol to elute the product. The filtrate was evaporated, and the residue was chromatographed on an 80-g Redi-Sep column, eluting with 0-10% MeOH/DCM to give (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol.

reactant | (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 2.91 mmol, 1.012 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | DMF | 5.81 mL | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 43.6 mmol, 6.11 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylbut-3-yn-2-ol | 11.63 mmol, 1.137 mL | CC(C)(C#C)O | C5H8O
solvent | water | 35 mL | O | H2O
catalyst | copper(i) iodide | 0.291 mmol, 0.055 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.029 mmol, 0.034 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)O)O | C19H17N3O4
